US06686384B2
1-(2-Amino-3,4,5,6-tetrafluorophenyl)-3-(2,6-dichlorophenyl)thiourea was obtained by boiling a mixture of 1 g of 1,2-diamino-3,4,5,6-tetrafluorobenzene with 1.13 g of 2,6-dichlorophenyl isothiocyanate in 30 ml of anhydrous THF for 4 hours. After distilling off the solvent, the thiourea was brought to crystallization under diisopropyl ether and 1.88 g of 1-(2-amino-3,4,5,6-tetrafluorophenyl)-3-(2,6-dichloro-phenyl)thiourea were obtained as a crystalline solid. M.p.: >300° C.

reactant | 1,2-diamino-3,4,5,6-tetrafluorobenzene | 1 g | NC1=C(C(=C(C(=C1F)F)F)F)N | C6H4F4N2
reactant | 2,6-dichlorophenyl isothiocyanate | 1.13 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(2-amino-3,4,5,6-tetrafluorophenyl)-3-(2,6-dichloro-phenyl)thiourea | 1.88 g | NC1=C(C(=C(C(=C1F)F)F)F)NC(=S)NC1=C(C=CC=C1Cl)Cl | C13H7Cl2F4N3S
